US08017611B2
3-Aminopyrazine-2-carboxylic acid (5 g) and 2-amino-5-fluorophenol (5.9 g) were dissolved into DMF (30 ml). Triethylamine (5.8 g) and HATU (19.2 g) were added to the mixture. The resulting mixture was stirred at room temperature for 24 hours. Ethyl acetate (100 ml) was added to the mixture. The resulting mixture was washed with brine (20 ml×3). The organic phase was dried and concentrated. The resulting residue was purified by chromatography on silica gel to give 3-amino-N-(4-fluoro-2-hydroxyphenyl)pyrazine-2-carboxamide (6 g). NMR Spectrum: (DMSOd6, 400 MHz) 6.60 (m, 2H), 7.50 (br s, 2H), 7.80 (s, 1H), 8.30 (m, 2H), 10.2 (s, 1H), 10.8 (s, 1H); Mass spectrum: MH+ 249.

reactant | 3-Aminopyrazine-2-carboxylic acid | 5 g | NC=1C(=NC=CN1)C(=O)O | C5H5N3O2
reactant | 2-amino-5-fluorophenol | 5.9 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | HATU | 19.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | 5.8 g | C(C)N(CC)CC | C6H15N
product | 3-amino-N-(4-fluoro-2-hydroxyphenyl)pyrazine-2-carboxamide | 6 g | NC=1C(=NC=CN1)C(=O)NC1=C(C=C(C=C1)F)O | C11H9FN4O2
